US04334914
In 100 ml sulfonylchloride was heated 20.0 g (0.057 mol) of 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoic acid to reflux for 1 hour, and then thionylchloride was removed by distillation. By vacuum distillation of the residue, 18.2 g (0.049 mol) of 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride was obtained; yield 86.0%, b.p. 142°-155° C./0.35 mmHg, nD25 1.5652.

reactant | 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoic acid | 0.057 mol, 20.0 g | ClC1=C(C(=O)O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H7Cl2F3O3
reactant | sulfonylchloride | 100 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride | 0.049 mol, 18.2 g, yield 86.0% | ClC1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H6Cl3F3O2
